US09062028B2
Step B. Methyl 4-(2,3-dimethylphenylamino)-4-oxobutanoate
To a solution of 4-((2,3-dimethylphenyl)amino)-4-oxobutanoic acid (0.5 g, 2.26 mmol) in DCM (9 mL) and MeOH (2 mL) at room temperature was added 2.0 M diazomethyl)trimethylsilane (1.36 mL, 2.71 mmol) dropwise. The reaction was stirred at room temperature for 30 min and quenched with a solution of 20% AcOH in DCM). The mixture was concentrated and purified by flash chromatography (0-100% ethyl acetate:hexanes) to afford the title compound as a white solid (0.52 g, 98% yield). LCMS, [M+H]+=236.4.

reactant | 4-((2,3-dimethylphenyl)amino)-4-oxobutanoic acid | 2.26 mmol, 0.5 g | CC1=C(C=CC=C1C)NC(CCC(=O)O)=O | C12H15NO3
reactant | trimethylsilane | 2.71 mmol, 1.36 mL | C[SiH](C)C | C3H10Si
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mL | CO | CH4O
product | Methyl 4-(2,3-dimethylphenylamino)-4-oxobutanoate | 0.52 g, 98% yield | CC1=C(C=CC=C1C)NC(CCC(=O)OC)=O | C13H17NO3
